US09023843B2
[4-(3-Fluoro-phenylethynyl)-2-nitro-phenoxy]-acetic acid ethyl ester
To a solution of (4-bromo-2-nitro-phenoxy)-acetic acid ethyl ester (2.95 g, 9.70 mmol, 1 equiv) and 1-ethynyl-3-fluorobenzene (1.34 mL, 11.6 mmol, 1.2 equiv) in dimethylformamide (15 mL) in a microwave reactor vessel was added triethylamine (4.05 mL, 29.1 mmol, 3 equiv), copper iodide (55 mg, 0.29 mmol, 0.03 equiv) and trans-dichlorobis(tri-o-tolylphosphine) palladium(II) (152 mg, 0.19 mmol, 0.02 equiv). The reaction was placed under an argon atmosphere then heated to 80° C. in a microwave reactor for 30 min. The reaction mixture was then partitioned between ethyl acetate:heptane (1:1) and 1.0 N aqueous hydrochloric acid (100 mL each). The organic layer was separated and washed successively with saturated aqueous sodium bicarbonate, 1:1 saturated aqueous sodium bicarbonate:saturated aqueous ammonium chloride, saturated brine solution (100 mL each) then dried (MgSO4), filtered and concentrated. The product was purified using an Isco CombiFlash automated chromatography system. The residue was loaded onto a 120 g silica gel column as a solution in dichloromethane (5 mL) then eluted with ethyl acetate in heptane (0-40% ethyl acetate linear gradient over 16 column volumes at a flow rate of 85 mL/min) to give 1.72 g (5.01 mmol, 52%) of the title compound as a brown oil.

reactant | (4-bromo-2-nitro-phenoxy)-acetic acid ethyl ester | 9.70 mmol, 2.95 g, 1 equiv | C(C)OC(COC1=C(C=C(C=C1)Br)[N+](=O)[O-])=O | C10H10BrNO5
reactant | 1-ethynyl-3-fluorobenzene | 11.6 mmol, 1.34 mL, 1.2 equiv | C(#C)C1=CC(=CC=C1)F | C8H5F
reactant | triethylamine | 29.1 mmol, 4.05 mL, 3 equiv | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | copper iodide | 0.29 mmol, 55 mg, 0.03 equiv | [Cu](I)I
product | [4-(3-Fluoro-phenylethynyl)-2-nitro-phenoxy]-acetic acid ethyl ester | 5.01 mmol, 1.72 g, 52% | C(C)OC(COC1=C(C=C(C=C1)C#CC1=CC(=CC=C1)F)[N+](=O)[O-])=O | C18H14FNO5
